US07449460B2
A mixture of 150 mg (0.34 mmol) of 4-[3-chloro-4-(1-methyl-1H-imidazole-2-ylsulfanyl)-phenylamino]-7-fluoro-6-methoxyquinoline-3-carbonitrile and 316 mg (2.05 mmol) of 4-pyrrolidin-1-yl-piperidine in 1 mL of 1-methyl-2-pyrrolidinone is heated at 105° C. for 16 hours. The solvents are removed in vacuo. A 10 mL portion of water is added to the residue, from which a tan solid is precipitated out. The solid is filtered off and washed with water. After drying in vacuo, the solid is suspended in ethyl acetate and stirred for 1 hour. The solid is filtered off, washed with ethyl acetate and dried in vacuo to provide 140 mg of 4-[3-chloro-4-(1-methyl-1H-imidazole-2-ylsulfanyl)-phenylamino]-6-methoxy-7-(4-pyrrolidin-1-yl-piperidin-1-yl)-quinoline-3-carbonitrile as a yellow solid, mp 225-229° C.

reactant | 4-[3-chloro-4-(1-methyl-1H-imidazole-2-ylsulfanyl)-phenylamino]-7-fluoro-6-methoxyquinoline-3-carbonitrile | 0.34 mmol, 150 mg | ClC=1C=C(C=CC1SC=1N(C=CN1)C)NC1=C(C=NC2=CC(=C(C=C12)OC)F)C#N | C21H15ClFN5OS
reactant | 4-pyrrolidin-1-yl-piperidine | 2.05 mmol, 316 mg | N1(CCCC1)C1CCNCC1 | C9H18N2
solvent | 1-methyl-2-pyrrolidinone | 1 mL | CN1C(CCC1)=O | C5H9NO
product | 4-[3-chloro-4-(1-methyl-1H-imidazole-2-ylsulfanyl)-phenylamino]-6-methoxy-7-(4-pyrrolidin-1-yl-piperidin-1-yl)-quinoline-3-carbonitrile | 140 mg | ClC=1C=C(C=CC1SC=1N(C=CN1)C)NC1=C(C=NC2=CC(=C(C=C12)OC)N1CCC(CC1)N1CCCC1)C#N | C30H32ClN7OS
